US04588719
1-Dimethylamino-(3-aminopropoxy)-1,2,3,4-tetrahydronaphthalene
80% hydrazine hydrate (10.0 ml) is added to a stirred solution of the phthalimido tetrahydronaphthalene obtained in the previous step (52 g) dissolved in absolute ethanol (500 ml). The reaction mixture is refluxed for 3 hours, allowed to cool, and the resultant solid filtered and the filtrate evaporated in vacuo. The yellow solid residue is triturated with aqueous 5% HCl, filtered, washed with aqueous HCl, and the filtrate extracted with ether. The acidic aqueous portion is made basic with 50% sodium hydroxide. The resultant diphasic mixture is extracted with ether, the ether extracts dried, filtered, and evaporated, yielding a yellow viscous liquid (30.1 g). The liquid is dried under high vacuum, yielding 27.7 g of the crude product, which is used as is in the next step.

reactant | hydrazine hydrate | 10.0 ml | O.NN
reactant | phthalimido tetrahydronaphthalene | C1(C=2C(C(N1C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C18H15NO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-Dimethylamino-(3-aminopropoxy)-1,2,3,4-tetrahydronaphthalene | 30.1 g | CN(C1(CCCC2=CC=CC=C12)OCCCN)C | C15H24N2O
